US08067362B2
Step 3: Synthesis of 3-(3,5-Bis-tert-butoxycarbonylmethoxybenzylamino)propionic acid
Beta-alanine (0.5 g, 5.68 mmol) was dissolved in methanol (20 mL). (3-Tert-Butoxycarbonylmethoxy-5-formylphenoxy)acetic acid tert-butyl ester (2.08 g, 5.58 mmol) was dissolved in methanol (2 mL) and added. The mixture was heated to reflux for 1 hour and allowed to cool to room temperature. Sodium cyanoborohydride (282 mg, 4.54 mmol) was added and the mixture stirred at room temperature, after 1 hour acetic acid was added (2 mL) and the mixture was stirred for an additional hour before being poured into water (50 mL) and stirred overnight. The water phase was washed with ethyl acetate (2×50 mL). The organic phase was dried (Na2SO4) and solvent removed in vacuo to yield the crude product. The crude product was used in the next step without further purification.

reactant | Beta-alanine | 5.68 mmol, 0.5 g | NCCC(=O)O | C3H7NO2
reactant | (3-Tert-Butoxycarbonylmethoxy-5-formylphenoxy)acetic acid tert-butyl ester | 5.58 mmol, 2.08 g | C(C)(C)(C)OC(COC1=CC(=CC(=C1)C=O)OCC(=O)OC(C)(C)C)=O | C19H26O7
reactant | Sodium cyanoborohydride | 4.54 mmol, 282 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 3-(3,5-Bis-tert-butoxycarbonylmethoxybenzylamino)propionic acid | C(C)(C)(C)OC(=O)COC=1C=C(CNCCC(=O)O)C=C(C1)OCC(=O)OC(C)(C)C | C22H33NO8
